US08222416B2
To a mixture of 5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridine (2.7 g, 15.2 mmol), sodium hydroxide (1.82 g, 45.6 mmol) and tetrabutylammonium bromide (150 mg, 0.46 mmol) in dichloromethane (30 mL) at 0° C. was added benzenesulfonyl chloride (4.0 g, 22.8 mmol) dropwise. After stirring for 12 h at room temperature, the mixture was washed with water (2×10 mL), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 50% dichloromethane/hexanes) to afford 1-benzenesulfonyl-5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridine (2.68 g, 63%): LC/MS m/e calcd for C15H14N2O2S2 [M+H]+ 319.42, observed 319.1.

reactant | 5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridine | 15.2 mmol, 2.7 g | C(C)SC=1C=C2C(=NC1)NC=C2 | C9H10N2S
reactant | sodium hydroxide | 45.6 mmol, 1.82 g | [OH-].[Na+]
reactant | benzenesulfonyl chloride | 22.8 mmol, 4.0 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | tetrabutylammonium bromide | 0.46 mmol, 150 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-benzenesulfonyl-5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridine | 2.68 g, 63% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)SCC | C15H14N2O2S2
